US07253285B2
a) Preparation of 2-(2-chloro-benzylamino)-thiazol-4-one
To a suspension of 2-chloro-benzylamine (7.88 g, 55 mmol) and Rhodanine (6.65 g, 50 mmol) in acetonitrile (150 mL) was added DIPEA (19.15 mL, 110 mmol) at room temperature. Then, this solution was cooled to 0° C. and mercuric chloride (13.5 g, 50 mmol) was added in three portions within a period of 15 min. After addition, the suspension was allowed to warm to room temperature and stirred for 3 days. The resulting black solids were filtered through a plug of celite and washed with dichloromethane (1 L) and methanol (500 mL). The combined solvents were removed under the vacuum and the crude residue was diluted with water (150 mL) and ethyl acetate (150 mL). After shaking, lot of solids formed which was collected by filtration to obtain 1.25 g of the desired product. Then, the two layers were separated and the ethyl acetate layer was washed with brine solution and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the ethyl acetate solution was removed partially and the remaining solution was stored in the refrigerator. Then, the precipitated solids were collected by filtration to afford 2.67 g of the desired product. Then, the aqueous layer was again extracted with dichloromethane (2×150 mL). The combined dichloromethane extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave the crude residue which was purified by using a Biotage silica gel column chromatography to obtain 4.2 g (total product 8.12 g, 67.5% yield) of 2-(2-chloro-benzylamino)-thiazol-4-one as a white amorphous solid: EI-HRMS m/e calcd for C10H9ClN2OS (M+) 240.0124, found 240.0122.

reactant | 2-chloro-benzylamine | 55 mmol, 7.88 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | Rhodanine | 50 mmol, 6.65 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIPEA | 110 mmol, 19.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-(2-chloro-benzylamino)-thiazol-4-one | 1.25 g | ClC1=C(CNC=2SCC(N2)=O)C=CC=C1 | C10H9ClN2OS
